US04178459
A solution of p-menth-3-oyl chloride prepared as in Example 1 (4.0 g., 0.020 moles) in chloroform (30 ml.) was added dropwise to a stirred solution of ethanolamine (3 g., 0.043 moles) in chloroform (50 ml.). The reaction mixture becomes warm, goes cloudy and finally a yellow oil starts to separate out. After stirring for 2 hours at room temperature the mixture was poured into water. The organic layer was separated, washed with dilute H2SO4, and dried (MgSO4). Removal of the solvent left a viscous oil (3.8 g.). This was distilled under vacuum to yield N-(2-hydroxyethyl)-p-menthane-3-carboxamide as a colourless very viscous oil, b.p. 160°/01. mm.

reactant | p-menth-3-oyl chloride | C1(CC(C(CC1)C(C)C)C(=O)Cl)C | C11H19ClO
reactant | ethanolamine | 0.043 moles, 3 g | C(O)CN | C2H7NO
solvent | chloroform | 30 ml | C(Cl)(Cl)Cl | CHCl3
solvent | chloroform | 50 ml | C(Cl)(Cl)Cl | CHCl3
product | N-(2-hydroxyethyl)-p-menthane-3-carboxamide | OCCNC(=O)C1CC(CCC1C(C)C)C | C13H25NO2
